US06476030B1
2-(2-Ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-7-(2-fluorophenyl)-3-(furan-2-yl)pyrazolo[1,5-d][1,2,4]triazine
This was prepared in 59% yield using a similar procedure to that described in Example 53 except using 2-(tributylstannyl)furan instead of 2-(tributylstannyl)pyridine and 3-bromo-2-(2-ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-7-(2-fluorophenyl)pyrazolo[1,5-d][1,2,4]triazine instead of 3-bromo-7-(2-fluorophenyl)-2-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)-pyrazolo[1,5-d][1,2,4]triazine. Data for title compound: mp=182-183° C. (CH2Cl2-EtOAc); 1H NMR (360 MHz, CDCl3) δ 1.39 (3H, t, J=7.3 Hz), 4.17 (2H, q, J=7.3 Hz), 5.59 (2H, s), 6.51 (1H, m), 6.70 (1H, m), 7.28 (1H, m), 7.39 (1H, dt, J=7.6 and 0.9 Hz), 7.56 (1H, m), 7.65 (1H, m), 7.81 (1H, m), 7.90 (1H, s), 9.69 (1H, s); MS (ES+) m/e 406 [MH]+; Anal. Found C, 58.57; H, 4.08; N, 23.87%. C20H16FN7O2.0.3H2O requires C, 58.48; H, 4.07; N, 23.87%.

reactant | 2-(tributylstannyl)furan | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
reactant | 3-bromo-2-(2-ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-7-(2-fluorophenyl)pyrazolo[1,5-d][1,2,4]triazine | BrC=1C(=NN2C(=NN=CC21)C2=C(C=CC=C2)F)OCC=2N(N=CN2)CC | C16H13BrFN7O
product | 2-(2-Ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-7-(2-fluorophenyl)-3-(furan-2-yl)pyrazolo[1,5-d][1,2,4]triazine | 59% yield | C(C)N1N=CN=C1COC1=NN2C(=NN=CC2=C1C=1OC=CC1)C1=C(C=CC=C1)F | C20H16FN7O2
